US08097732B2
1-[2,6-dichloro-4-(trifluoromethyl)phenyl]-4-(1,3-dithiolan-2-yl)-5-(methylamino)-1H-pyrazole-3-carbothioamide (compound 2-6)
To 1,1,1,3,3,3-hexamethyldisilathiane (0.157 g, 0.9 mmol) in dimethylformamide (4 mL) was added sodium methoxide (0.049 g, 0.9 mmol) and the resulting mixture was sonicated to provide a homogeneous blue colored solution. This resulting solution was added to the solution of 1-[2,6-dichloro-4-(trifluoromethyl)phenyl]-4-(1,3-dithiolan-2-yl)-5-(methylamino)-1H-pyrazole-3-carbonitrile (0.08 g, 0.2 mmol) in dimethylformamide (5 mL) at room temperature under nitrogen. This mixture was stirred at room temperature for one and half hour. It was then diluted with ether (30 mL) and water (30 mL). The layers were separated and the aqueous layer was extracted with ether. The ethereal layers were combined and washed twice with water (2×20 mL), dried (Na2SO4), and concentrated to provide a yellow solid. Upon chromatographic purification via silica gel eluting with heptane:ethyl acetate (4:1 to 2:1), a yellow solid (0.048 g, 55%) was obtained. 19F-NMR: −63.634.

reactant | 1,1,1,3,3,3-hexamethyldisilathiane | 0.9 mmol, 0.157 g | C[Si](S[Si](C)(C)C)(C)C | C6H18SSi2
reactant | sodium methoxide | 0.9 mmol, 0.049 g | C[O-].[Na+]
reactant | 1-[2,6-dichloro-4-(trifluoromethyl)phenyl]-4-(1,3-dithiolan-2-yl)-5-(methylamino)-1H-pyrazole-3-carbonitrile | 0.2 mmol, 0.08 g | ClC1=C(C(=CC(=C1)C(F)(F)F)Cl)N1N=C(C(=C1NC)C1SCCS1)C#N | C15H11Cl2F3N4S2
solvent | dimethylformamide | 4 mL | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | ether | 30 mL | CCOCC | C4H10O
solvent | water | 30 mL | O | H2O
product | 1-[2,6-dichloro-4-(trifluoromethyl)phenyl]-4-(1,3-dithiolan-2-yl)-5-(methylamino)-1H-pyrazole-3-carbothioamide | 0.048 g, 55% | ClC1=C(C(=CC(=C1)C(F)(F)F)Cl)N1N=C(C(=C1NC)C1SCCS1)C(N)=S | C15H13Cl2F3N4S3
